US07625903B2
3-Nitroaniline (5.0 g, 36.2 mmol) was combined with EtOAc (50 mL) and 20% aq potassium bicarbonate (25 mL). The biphasic mixture was cooled to 0° C. (ice water bath) and treated with chloroacetyl chloride (2.9 mL, 36.2 mmol) dropwise over 30 min. The reaction mixture was warmed up to room temperature and stirred for 30 min. The reaction mixture was followed up by HPLC. The aqueous layer was removed. The organic layer was combined with (2R)-2-amino-1-propanol (8.5 mL, 108.6 mmol), heated to 60° C. for 3 h. HPLC analysis showed no SM was left. Water was added to reaction mixture and reheated to 60° C. The aqueous layer was removed and organic layer was washed by brine (60 mL×3). Evaporated solvent to dryness on vacuum and the yellow solid was stirred with 100 mL of 30% EtOAc in hexane. The solid was collected and washed with solvent (30% EtOAc in Hexane) 70 mL×3. The off white solid was collected and examined by HPLC and 1H NMR. The solid was dried on high vacuum over night which produced a off white solid N2-[(1R)-2-hydroxy-1-methylethyl]-N1-(3-nitrophenyl)glycinamide (5.65 g, 62% yield). MS: M(C11H15N3O4)=253.26 (M+H)+=254.

reactant | 3-Nitroaniline | 36.2 mmol, 5.0 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | potassium bicarbonate | 25 mL | C([O-])(O)=O.[K+]
reactant | chloroacetyl chloride | 36.2 mmol, 2.9 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | (2R)-2-amino-1-propanol | 108.6 mmol, 8.5 mL | N[C@@H](CO)C | C3H9NO
solvent | Water | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N2-[(1R)-2-hydroxy-1-methylethyl]-N1-(3-nitrophenyl)glycinamide | 5.65 g, 62% yield | OC[C@@H](C)NCC(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C11H15N3O4
